US07906645B2
N-[3-(Benzyloxy)phenyl]-4-{[(2R)-4-isopropylpiperazin-2-yl]carbonyl}piperazine-1-carboxamide
To a stirred solution of tert-butyl (2R)-4-isopropyl-2-(piperazin-1-ylcarbonyl)piperazine-1-carboxylate (0.2 g, 0.59 mmol) and phenyl [3-(benzyloxy)phenyl]carbamate (0.189 g, 0.59 mmol) in THF (5 μL) was added triethylamine (91 uL, 0.65 mmol) and the reaction heated to 60° C. for 6 hours. The solvents were then removed in vacuo and the residue dissolved in DCM (3 ml), added TFA (3 ml) and stirred at room temperature for a further 90 mins. The reaction mixture was then concentrated under reduced pressure, residue partitioned between DCM/1M NaOH, extracted twice, combined organics passed through phase separating cartridge and evaporated to dryness to give a yellow gum. This was then purified by silica gel chromatography (Isco Companion™; 12 g column; 10% methanolic ammonia/DCM)

reactant | tert-butyl (2R)-4-isopropyl-2-(piperazin-1-ylcarbonyl)piperazine-1-carboxylate | 0.59 mmol, 0.2 g | C(C)(C)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)N1CCNCC1 | C17H32N4O3
reactant | phenyl [3-(benzyloxy)phenyl]carbamate | 0.59 mmol, 0.189 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC(OC1=CC=CC=C1)=O | C20H17NO3
reactant | triethylamine | 0.65 mmol, 91 uL | C(C)N(CC)CC | C6H15N
solvent | THF | 5 μL | C1CCOC1 | C4H8O
product | N-[3-(Benzyloxy)phenyl]-4-{[(2R)-4-isopropylpiperazin-2-yl]carbonyl}piperazine-1-carboxamide | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC(=O)N1CCN(CC1)C(=O)[C@@H]1NCCN(C1)C(C)C | C26H35N5O3
